US04018895
A reaction mixture consisting of 200 ml. of methylamine, 225 ml. of methanol and 75 g. of 3-chloro-1-(o-methoxyphenoxy)propylbenzene was heated in an autoclave for 12 hours at 140° C. The reaction mixture was cooled, and the solvent was removed by evaporation. The semisolid residue was mixed with concentrated aqueous sodium hydroxide. The resulting mixture was extracted several times with ether. N-methyl 3-(o-methoxyphenoxy)-3-phenylpropylamine, formed in the above reaction, was insoluble in the alkaline solution and was extracted therefrom with ether. The ether extracts were combined, and the combined extracts washed with water and dried. The ether was removed therefrom in vacuo leaving the amine as a dark colored residue. The residue was dissolved in ether and 1 equivalent of oxalic acid in methanol added slowly. N-methyl 3-(o-methoxyphenoxy)-3-phenylpropylamine oxalate formed an insoluble precipitate which was collected by filtration, and the filter cake washed with ether and dried. N-methyl 3-(o-methoxyphenoxy)-3-phenylpropylamine oxalate melted at 150°-152° C. The NMR spectrum of the compound was consistent with the expected structure.

reactant | methylamine | CN | CH5N
reactant | 3-chloro-1-(o-methoxyphenoxy)propylbenzene | ClC=1C=C(C=CC1)C(CC)OC1=C(C=CC=C1)OC | C16H17ClO2
solvent | methanol | CO | CH4O
product | N-methyl 3-(o-methoxyphenoxy)-3-phenylpropylamine | CNCCC(C1=CC=CC=C1)OC1=C(C=CC=C1)OC | C17H21NO2
